US09085555B2
(2S,4R)-1-{2-[3-Acetyl-5-(pyridin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
A solution of (2S,4R)-1-[2-(3-acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide Example 579 (60.0 mg, 0.122 mmol) in DMSO (2.5 mL) was treated with cesium carbonate (160 mg, 0.490 mmol). After stirring at RT for 5 min, 2-(bromomethyl)pyridine (31.0 mg, 0.122 mmol) was added to the reaction mixture and stirring was continued at RT for 16 h. Water was then added to the mixture to form a solid precipitate which was filtered off, washed with water and dried in vacuo. Purification by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) afforded after lyophilization of the purified fractions the title compound as a white solid. MS (LC/MS): 580/581 [M+H]+; tR (HPLC conditions k): 3.00 min.

reactant | (2S,4R)-1-[2-(3-acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)O)C(C)=O)=O)C=CC1)F | C24H22ClF2N3O4
reactant | cesium carbonate | 0.490 mmol, 160 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(bromomethyl)pyridine | 0.122 mmol, 31.0 mg | BrCC1=NC=CC=C1 | C6H6BrN
reactant | Water | O | H2O
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | (2S,4R)-1-{2-[3-Acetyl-5-(pyridin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)OCC2=NC=CC=C2)C(C)=O)=O)C=CC1)F | C30H27ClF2N4O4
